US07790882B2
(S)-5-(1-(4-Bromophenyl)-3-phenylprop-2-ynyl)-2,2-dimethyl-1,3-dioxane-4,6-dione
A solution of copper (II) acetate monohydrate (10 mg, 0.050 mmol) in water (0.2 ml) was treated with sodium (L)-ascorbate (20 mg, 0.10 mmol), the mixture was stirred until the mixture was turned bright orange (3 min). Subsequently, (R,M)-3-{[4-(2-diphenylphosphanyl-7-methoxy-naphthalen-1-yl)-phthalazin-1-ylamino]-phenyl-methyl}-pentan-3-ol (1st diastereomer, 33.1 mg, 0.050 mmol) and phenylacetylene (0.275 ml, 2.5 mmol) were added, the resulting mixture was stirred for 10 min at 23° C., cooled to 0° C., stirred for 5 min and treated with 5-(4-bromobenzylidene)-2,2-dimethyl-1,3-dioxane-4,6-dione (77.7 mg, 0.25 mmol). The reaction mixture was stirred vigorously at 0° C. for 42 hrs, diluted with dichloromethane (2 ml) and subjected directly to flash chromatography on silica gel (hexane/EtOAc 3:1→1:1) to give 53 mg of the pure title compound as a white solid. (Yield: 39%)

reactant | sodium (L)-ascorbate | 0.10 mmol, 20 mg | O=C1C(O)=C([O-])[C@H](O1)[C@@H](O)CO.[Na+]
reactant | phenylacetylene | 2.5 mmol, 0.275 ml | C1(=CC=CC=C1)C#C | C8H6
reactant | 5-(4-bromobenzylidene)-2,2-dimethyl-1,3-dioxane-4,6-dione | 0.25 mmol, 77.7 mg | BrC1=CC=C(C=C2C(OC(OC2=O)(C)C)=O)C=C1 | C13H11BrO4
solvent | water | 0.2 ml | O | H2O
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
catalyst | copper (II) acetate monohydrate | 0.050 mmol, 10 mg | O.C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | (S)-5-(1-(4-Bromophenyl)-3-phenylprop-2-ynyl)-2,2-dimethyl-1,3-dioxane-4,6-dione | 53 mg, Yield: 39% | BrC1=CC=C(C=C1)[C@@H](C#CC1=CC=CC=C1)C1C(OC(OC1=O)(C)C)=O | C21H17BrO4
